US06506941B1
Preparation of ethyl α-(p-methoxyphenyl)-β-(dimethylamino)acrylate (VI; R=Et) (via dimethylformamide diethylacetal)
2 g (0.0103 mol) of ethyl p-methoxyphenylacetate and 9.1 g (10.6 ml, 0.0618 mol) of dimethylformamide diethylacetal were mixed in a 100 ml balloon flask provided with reflux cooler, magnetic stirring and thermometer. The thus obtained solution was heated to reflux (135° C.) for 20 hours. Then the dimethylformamide diethylacetal and the unreacted ethyl p-methoxyphenylacetate were removed by distillation under vacuum, the desired product being obtained as distillation residue. 2,14 g of ethyl α-(p-methoxyphenyl)-β-(dimethylamino)acrylate were thus obtained (Yield: 83%).

reactant | ethyl p-methoxyphenylacetate | 0.0103 mol, 2 g | COC1=CC=C(C=C1)CC(=O)OCC | C11H14O3
reactant | dimethylformamide diethylacetal | 0.0618 mol, 10.6 ml, 9.1 g | C(C)OC(N(C)C)OCC | C7H17NO2
product | ethyl α-(p-methoxyphenyl)-β-(dimethylamino)acrylate | COC1=CC=C(C=C1)C(C(=O)OCC)=CN(C)C | C14H19NO3
